US04486446
1-(5-Benzyloxy-4H-pyran-4-one-2-yl)-2-(1-methyl-3-phenylpropylamino) ethanol hydrochloride (A)
To 1-(5-Benzyloxy-4H-pyran-4-on-2-yl)-2-amino ethanol hydrochloride (1.94 g, 0.0065 m) and 3-phenyl-2-butanone (0.97 g, 0.0065 m) in methanol was added 65 ml of 0.1N NaOH followed by NaCN BH2 (0.25 g, 0.004 m). The mixture was stirred for 2 days at room temperature after concentration, chromatography on silica gel 60 (E. Merck) eluting with 5% CH3OH/CH2Cl2 saturated with NH3 afforded the desired product as its free base. The hydrochloride salt was prepared by dissolving in ethanol and adding aqueous HCl. Filtration of the solid upon attempted ether extraction gave a poor yield of the desired salt A; m.p. 205°-208° C.

reactant | 1-(5-Benzyloxy-4H-pyran-4-on-2-yl)-2-amino ethanol hydrochloride | 1.94 g | Cl.C(C1=CC=CC=C1)OC=1C(C=C(OC1)C(CN)O)=O
reactant | 3-phenyl-2-butanone | 0.97 g | C1(=CC=CC=C1)C(C(C)=O)C | C10H12O
reactant | NaOH | 0.1N, 65 ml | [OH-].[Na+]
reactant | NaCN | [C-]#N.[Na+]
solvent | methanol | CO | CH4O
product | 1-(5-Benzyloxy-4H-pyran-4-one-2-yl)-2-(1-methyl-3-phenylpropylamino) ethanol hydrochloride | Cl.C(C1=CC=CC=C1)OC=1C(C=C(OC1)C(CNC(CCC1=CC=CC=C1)C)O)=O | InChI=1S/C24H27NO4.ClH/c1-18(12-13-19-8-4-2-5-9-19)25-15-22(27)23-14-21(26)24(17-29-23)28-16-20-10-6-3-7-11-20;/h2-11,14,17-18,22,25,27H,12-13,15-16H2,1H3;1H
